US06962922B2
Step 1: 1-(4-Fluoro-phenyl)-prop-2-yn-1-ol
To 0.5 g (1.06 mmol) 3-(3,4-Difluoro-benzyl)-6-iodo-1-methyl-1H-quinazoline-2,4-dione and 0.52 g (4.2 mmol) di-isopropyl ethylamine in 15 ml DMF is added bis-triphenylphosphine palladium di-chloride (catalytic) followed by CuI (catalytic). 0.15 g (1.3 mmol) 1-fluoro-4-prop-2-ynyl-benzene is added and the mixture is heated to 70° C. for 6 hours. The mixture is allowed to cool to room temperature and stir overnight. Water is added and the mixture stirred 30 minutes. Filtered and triturated solid in hot EtOAc and filtered. Purified by flash chromatography (EtOAc/hexane eluent).

reactant | 3-(3,4-Difluoro-benzyl)-6-iodo-1-methyl-1H-quinazoline-2,4-dione | 1.06 mmol, 0.5 g | FC=1C=C(CN2C(N(C3=CC=C(C=C3C2=O)I)C)=O)C=CC1F | C16H11F2IN2O2
reactant | di-isopropyl ethylamine | 4.2 mmol, 0.52 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-fluoro-4-prop-2-ynyl-benzene | 1.3 mmol, 0.15 g | FC1=CC=C(C=C1)CC#C | C9H7F
reactant | Water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | CuI | [Cu]I
product | 1-(4-Fluoro-phenyl)-prop-2-yn-1-ol | FC1=CC=C(C=C1)C(C#C)O | C9H7FO
